US07884110B2
Intermediate 20: 6-Iodo-9H-purine
A mixture of 6-chloro-9H-purine (684 mg, 4.46 mmol) and 6 mL of 57% hydriodic acid were stirred at 0° C. for 1.5 hours. The reaction yielded 840 mg of the product as a white powder. The solid was filtered off, suspended in 5 mL of water and brought to pH=8 with aqueous ammonia solution. The suspension was cooled down to 0° C. and the solid was filtered off, washed with cold water and dried to give the product.

reactant | 6-chloro-9H-purine | 4.46 mmol, 684 mg | ClC1=C2N=CNC2=NC=N1 | C5H3ClN4
reactant | hydriodic acid | 6 mL | I | HI
product | 6-Iodo-9H-purine | 840 mg | IC1=C2N=CNC2=NC=N1 | C5H3IN4
